US05286728
The starting material is prepared as follows: 10 g of isatic acid anhydride are suspended in 100 ml of dioxane. The suspension is heated to 60° IT, and within a period of 10 minutes 13.74 g of 1-[2-(4-chlorophenyl)ethyl]piperazine in 20 ml of dioxane are added dropwise. The mixture is boiled under reflux for 30 minutes and then concentrated by evaporation. The residue is dissolved in ether and washed with soda solution (1%). The ether solution is concentrated by evaporation and the yellow oil is recrystallised from hexane, yielding 1-(2-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine having a melting point of 78°-80°.

reactant | isatic acid anhydride | 10 g | C=1(C(N)=CC=CC1)C(=O)C(=O)OC(C(C=1C(N)=CC=CC1)=O)=O | C16H12N2O5
reactant | 1-[2-(4-chlorophenyl)ethyl]piperazine | 13.74 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(2-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | NC1=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC=C1 | C19H22ClN3O
